US07538931B2
Hgu=N,6-Dimethyl-N-pyridin-2-ylpyridin-2-amine
To a flask were added 0.75 g 2-(methylamino)pyridine, 1.0 g 2-bromo-6-methylpyridine, 0.95 g sodium tert-butoxide, 0.16 g 1,1′-bis(diphenylphosphino)ferrocene and 50 ml toluene. The mixture was purged thoroughly with nitrogen and 0.14 g of tris(dibenzylideneacetone)d2-propanollladium(0) was added and the mixture was heated to 80 C under nitrogen for 16 hours. After cooling to 22 C and quenching with 50 ml water, the product was extracted twice with ethyl acetate and washed twice with water. After filtration and solvent removal, the product was purified by silica gel chromatography using 35% ethyl acetate in hexane resulting in an orange oil. This was dissolved in 75 ml tert-butyl methyl ether and extracted into 75 ml 1M hydrochloric acid. After basification with 3M sodium hydroxide solution, the product was extracted with 75 ml tert-butyl methyl ether. Following removal of solvent, 1.1 g of a yellow oil was obtained.

reactant | 2-(methylamino)pyridine | 0.75 g | CNC1=NC=CC=C1 | C6H8N2
reactant | 2-bromo-6-methylpyridine | 1.0 g | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | sodium tert-butoxide | 0.95 g | CC(C)([O-])C.[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.16 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,6-Dimethyl-N-pyridin-2-ylpyridin-2-amine | 1.1 g | CN(C1=NC(=CC=C1)C)C1=NC=CC=C1 | C12H13N3
